US04719047
Using the reductive amination procedure described in 1, 10 -chloroanthracene-9-carbaldehyde (Aldrich) and tris(hydroxymethyl)aminomethane (Aldrich) gave 2-((10-chloro-9-anthracenylmethyl)amino)-2-hydroxymethyl-1,3-propanediol hydrochloride, mp 251°-254° (dec), (EtOH/Et2O), (C,H,Cl,N).

reactant | 10 -chloroanthracene-9-carbaldehyde | ClC1=C2C=CC=CC2=C(C2=CC=CC=C12)C=O | C15H9ClO
reactant | tris(hydroxymethyl)aminomethane | C(C(CO)(CO)N)O | C4H11NO3
solvent | EtOH Et2O | CCO.CCOCC
product | 2-((10-chloro-9-anthracenylmethyl)amino)-2-hydroxymethyl-1,3-propanediol hydrochloride | Cl.ClC1=C2C=CC=CC2=C(C2=CC=CC=C12)CNC(CO)(CO)CO | InChI=1S/C19H20ClNO3.ClH/c20-18-15-7-3-1-5-13(15)17(14-6-2-4-8-16(14)18)9-21-19(10-22,11-23)12-24;/h1-8,21-24H,9-12H2;1H
